US08378104B2
Intermediate 4: 7-chloro-2-iodofuro[2,3-c]pyridine
7-Chlorofuro[2,3-c]pyridine (7.60 g, 49.7 mmol) was placed in a three-necked flask fitted with a thermometer and nitrogen inlet and then anhydrous tetrahydrofuran (150 mL) was added. The solution was cooled to −78° C. To this cold solution was added gradually 2 M LDA solution (32.3 mL, 64.6 mmol) by syringe and the resulting mixture was stirred for 2 h at −78° C. Then a solution of iodine (15.1 g, 59.5 mmol) in dry THF (100 mL) was added at −78° C. and the resulting mixture was allowed to warm to RT overnight. The reaction was quenched with aqueous sodium thiosulfate (75 mL) and diluted with ethyl acetate (150 mL). The organic layer was separated, and the aqueous layer was extracted with ethyl acetate (2×75 mL). All organic layers were combined, washed with brine, dried over anhydrous Na2SO4, filtered and evaporated to give 13.7 g (99%) of the title compound as a brown solid. 1H NMR (300 MHz, CDCl3): δ 7.06 (s, 1H), 7.40 (d, J=6.0 Hz, 1 H), 8.17 (d, J=6.0 Hz, 1H).

reactant | 7-Chlorofuro[2,3-c]pyridine | 49.7 mmol, 7.60 g | ClC=1N=CC=C2C1OC=C2 | C7H4ClNO
reactant | LDA | 64.6 mmol, 2 M, 32.3 mL | [Li+].CC(C)[N-]C(C)C
reactant | iodine | 59.5 mmol, 15.1 g | II | I2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 7-chloro-2-iodofuro[2,3-c]pyridine | 13.7 g, 99% | ClC=1N=CC=C2C1OC(=C2)I | C7H3ClINO
